### PR TITLE
[Merged by Bors] - feat(MvPolynomial/WeightedHomogenous): relate `weightedTotalDegree` to `degrees` and `degreeOf`

### PR DESCRIPTION
**Pull request by LiamSchilling**
`weightedTotalDegree` is the most general notion of multivariate degree in mathlib. These theorems show that it specializes to `degrees` and `degreeOf` with specialized weights.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean [hunk 1]
```diff
@@ -113,6 +113,29 @@ theorem le_weightedTotalDegree (w : σ → M) {φ : MvPolynomial σ R} {d : σ 
     (hd : d ∈ φ.support) : weight w d ≤ φ.weightedTotalDegree w :=
   le_sup hd
 
+open Classical in
+/-- The `degrees` of a polynomial `p` is a special case of the `weightedTotalDegree` of `p` where
+  the weights are singletons containing each variable. -/
+theorem weightedTotalDegree_eq_degrees (p : MvPolynomial σ R) :
+    weightedTotalDegree (fun i => {i}) p = degrees p := by
+  rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean]:
```suggestion
/-- The `degrees` of a polynomial `p` is a special case of the `weightedTotalDegree` of `p` where
  the weights are singletons containing each variable. -/
theorem weightedTotalDegree_eq_degrees [DecidableEq σ] (p : MvPolynomial σ R) :
    weightedTotalDegree (fun i => {i}) p = degrees p := by
  rw [degrees_def]
  rfl
```
When we use `open Classical in`, we get an arbitrary `DecidableEq` instance on `σ`. This means this lemma won't apply for types with a different `DecidableEq` instance, e.g. `Int`. Note that this only matters for statements and definitions, not for proofs.

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean [hunk 2]
```diff
@@ -113,6 +113,29 @@ theorem le_weightedTotalDegree (w : σ → M) {φ : MvPolynomial σ R} {d : σ 
...
+
+/-- The `totalDegree` of a polynomial `p` is a special case of the `weightedTotalDegree` of `p`
+  where all of the weights are `1`. -/
+theorem weightedTotalDegree_eq_totalDegree (p : MvPolynomial σ R) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean]: This already exists as [MvPolynomial.weightedTotalDegree_one](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/MvPolynomial/Homogeneous.html#MvPolynomial.weightedTotalDegree_one).

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean [hunk 3]
```diff
@@ -113,6 +113,29 @@ theorem le_weightedTotalDegree (w : σ → M) {φ : MvPolynomial σ R} {d : σ 
...
+    weightedTotalDegree (fun _ => 1) p = totalDegree p := by
+  simp [weightedTotalDegree, totalDegree, weight, linearCombination]
+
+open Classical in
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean]:
```suggestion
/-- The `degreeOf` a variable `i` for a polynomial `p` is a special case of the
  `weightedTotalDegree` of `p` where `i` has the only nonzero weight and that weight is `1`. -/
theorem weightedTotalDegree_eq_degreeOf [DecidableEq σ] (i : σ) (p : MvPolynomial σ R) :
```
Same as above.

File: Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean [hunk 4]
```diff
@@ -113,6 +113,29 @@ theorem le_weightedTotalDegree (w : σ → M) {φ : MvPolynomial σ R} {d : σ 
...
+/-- The `degreeOf` a variable `i` for a polynomial `p` is a special case of the
+  `weightedTotalDegree` of `p` where `i` has the only nonzero weight and that weight is `1`. -/
+theorem weightedTotalDegree_eq_degreeOf (i : σ) (p : MvPolynomial σ R) :
+    weightedTotalDegree (if · = i then 1 else 0) p = degreeOf i p := by
+  simp only [weightedTotalDegree, degreeOf, degrees, weight, linearCombination,
+    Multiset.count_finset_sup]
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPolynomial/WeightedHomogeneous.lean]:
```suggestion
    weightedTotalDegree (Pi.single i 1) p = degreeOf i p := by
  simp only [weightedTotalDegree, degreeOf, degrees, weight, linearCombination,
    Multiset.count_finset_sup, Pi.single_apply]
```

**Review by chrisflav — COMMENTED** [review]
Thanks for your PR! I left some comments below, feel free to request my review again when you have addressed the comments.

**Comment by LiamSchilling** [comment]
Thank you for the comments @chrisflav. To align with the previous definition `weightedTotalDegree_one` you mentioned, I renamed and moved my defintions to the same file.

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 5]
```diff
@@ -49,12 +49,29 @@ def IsHomogeneous [CommSemiring R] (φ : MvPolynomial σ R) (n : ℕ) :=
...
     id, smul_eq_mul, mul_one]
 
+/-- The `degreeOf` a variable `i` for a polynomial `p` is a special case of the
+  `weightedTotalDegree` of `p` where `i` has the only nonzero weight and that weight is `1`. -/
+theorem weightedTotalDegree_piSingle [DecidableEq σ] (i : σ) (p : MvPolynomial σ R) :
+    weightedTotalDegree (Pi.single i 1) p = degreeOf i p := by
+  simp only [weightedTotalDegree, weight, linearCombination, Pi.single_apply, degreeOf, degrees,
+    Multiset.count_finset_sup]
+  congr; ext d
+  by_cases h : d i = 0 <;> simp [h]
```
Comment (vlad902) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean]:
```suggestion
  simp +contextual
```

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 6]
```diff
@@ -51,12 +51,29 @@ def IsHomogeneous [CommSemiring R] (φ : MvPolynomial σ R) (n : ℕ) :=
 
 variable [CommSemiring R]
 
+/-- The `degrees` of a polynomial `p` is a special case of the `weightedTotalDegree` of `p` where
+  the weights are singletons containing each variable. -/
+theorem weightedTotalDegree_multisetSingle [DecidableEq σ] (p : MvPolynomial σ R) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean]:
```suggestion
theorem weightedTotalDegree_singleton [DecidableEq σ] (p : MvPolynomial σ R) :
```

**Review by chrisflav — APPROVED** [review]
Thanks! Modulo the comment, LGTM. Sorry for not responding earlier to this: I did not notice this was awaiting review again, because it was still tagged as `awaiting-author`. For the future feel free to remove the `awaiting-author` label as soon as you have responded to the review comments. Otherwise your PR does not appear on the queue again and many reviewers, including me, only regularly check the PRs on the queue.

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 7]
```diff
@@ -51,12 +51,29 @@ def IsHomogeneous [CommSemiring R] (φ : MvPolynomial σ R) (n : ℕ) :=
 
 variable [CommSemiring R]
 
+/-- The `degrees` of a polynomial `p` is a special case of the `weightedTotalDegree` of `p` where
+  the weights are singletons containing each variable. -/
+theorem weightedTotalDegree_singleton [DecidableEq σ] (p : MvPolynomial σ R) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:57]:
```suggestion
@[simp]
theorem weightedTotalDegree_singleton [DecidableEq σ] (p : MvPolynomial σ R) :
```

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 8]
```diff
@@ -51,12 +51,29 @@ def IsHomogeneous [CommSemiring R] (φ : MvPolynomial σ R) (n : ℕ) :=
...
+  where all of the weights are `1`. -/
 theorem weightedTotalDegree_one (φ : MvPolynomial σ R) :
     weightedTotalDegree (1 : σ → ℕ) φ = φ.totalDegree := by
   simp only [totalDegree, weightedTotalDegree, weight, LinearMap.toAddMonoidHom_coe,
     linearCombination, Pi.one_apply, Finsupp.coe_lsum, LinearMap.coe_smulRight, LinearMap.id_coe,
     id, smul_eq_mul, mul_one]
 
+/-- The `degreeOf` a variable `i` for a polynomial `p` is a special case of the
+  `weightedTotalDegree` of `p` where `i` has the only nonzero weight and that weight is `1`. -/
+theorem weightedTotalDegree_piSingle [DecidableEq σ] (i : σ) (p : MvPolynomial σ R) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:72]:
```suggestion
@[simp]
theorem weightedTotalDegree_piSingle [DecidableEq σ] (i : σ) (p : MvPolynomial σ R) :
```
